US06066639
Upon saponification of ethyl 5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrazole-3-carboxylate (637 mg, 1.5 mmol) with 1N sodium hydroxide (3 mL) as described in Example 11, there is obtained 5-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrazole-3-carboxylic acid (368 mg, 80%, mp >260° C.): 1H NMR (DMSOd6) δ 12.90 (br s, 1H), 9.85 (br s, 1H), 6.67 (s, 1H), 6.42 (s, 1H), 6.27 (s, 1H), 5.96 (s, 2H), 3.16 (br d, 1H, J=107 Hz), 2.74 (m, 1H), 2.65 (m, 1H), 2.46 (brd, 1H, J=15.0 Hz), 1.90 (dd, 1H, J=15.0, 7.9 Hz), 1.68-1.47 (m, 3H).

reactant | ethyl 5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrazole-3-carboxylate | 1.5 mmol, 637 mg | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC(=NN2)C(=O)OCC)O | C20H28N6O4
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
product | 5-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrazole-3-carboxylic acid | 368 mg, 80% | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC(=NN2)C(=O)O)O | C13H16N6O3
